US07442805B2
Synthesis of 5-{[(4-tert-butylphenyl)sulfonyl]amino}-1-methyl-3-phenyl-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylate and 4-tert-butylbenzene sulfonyl chloride followed the procedures of Example 1 Step 2 & Step 3 as a pale yellow solid: 1H NMR (DMSO-d6) δ 1.25 (s, 9H, 3.94 (s, 3H, 7.00-7.10 (m, 1H, 7.10-7.27 (m, 3H, 7.27-7.45 (m, 3H, 7.45-7.62 (m, 5H, 9.86 (s, 1H), 12.97 (br s, 1H; MS (ESI) m/z 461 [M-H]−; HRMS calcd for C26H27N2O4S: 463.1689; found (ESI+): 463.1681; Anal. calcd for C26H26N2O4S.0.15H2O: C, 67.12; H, 5.70; N, 6.02. Found: C, 67.05; H, 5.42; N, 5.88.

reactant | ethyl 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylate | CN1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC | C18H16N2O4
reactant | 4-tert-butylbenzene sulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 5-{[(4-tert-butylphenyl)sulfonyl]amino}-1-methyl-3-phenyl-1H-indole-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C(=C(N(C2=CC1)C)C(=O)O)C1=CC=CC=C1 | C26H26N2O4S
